US06316482B1
To a solution of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (110 mg) in anhydrous tetrahydrofuran (2 ml) was added 1,1′-thiocarbonyldiimidazole (48 mg) under nitrogen at ambient temperature and stirred at same temperature for 1 day. After being concentrated in vacuo, the residue was diluted with a mixture of chloroform and saturated sodium bicarbonate aqueous solution and the organic layer was separated. The organic layer was washed with water and brine and the solution was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (ethyl acetate-methanol=1:1) to give 4-(2-mercapto-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (96 mg) as a powder.

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 110 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | 1,1′-thiocarbonyldiimidazole | 48 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(2-mercapto-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 96 mg | SC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C35H42N6O5S
